US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,4-benzenedicarboxamide
To a solution of 4-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino) carbonyl]benzoic acid (0.0452 g, 0.10 mmol) in DCM (1.0 mL) was added 1,1-dimethylethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazine carboxylate (0.0414 g, 0.10 mmol), HBTU (0.0569 g, 0.15 mmol), and Et3N (0.0281 mL, 0.20 mmol). This mixture was stirred at room temperature for 1 h, concentrated, and purified using a Gilson HPLC (with TFA). TFA (1 drop in each tube ˜12 mL), was added to Fractions containing product and solvent was concentrated using a GeneVav EZ-2 evaporator. The compound was purified again using a Gilson HPLC (with TFA) and evaporating the solvent using a GeneVav EZ-2 evaporator. Then product was basified with an amine cartridge to afford 0.0234 g (31%) of the title compound. LC-MS m/z 747 (M+H)+; 1H-NMR (400 MHz, CD3OD) δ ppm 1.33 (d, J=6.78 Hz, 3 H) 1.41 (t, J=7.53 Hz, 3 H) 1.50 (t, J=7.15 Hz, 3 H) 1.80-1.97 (m, 2 H) 2.06-2.15 (m, J=13.05 Hz, 2 H) 2.57-2.69 (m, 1 H) 2.75-2.88 (m, J=15.06 Hz, 1 H) 3.11-3.20 (m, 2 H) 3.33-3.39 (m, 3 H) 3.46-3.56 (m, J=13.80 Hz, 2 H) 3.64-3.74 (m, 2 H) 4.00-4.10 (m, J=3.01 Hz, 4 H) 4.31-4.42 (m, 1 H) 4.47 (q, J=7.19 Hz, 2 H) 4.58-4.64 (m, 2 H) 4.70-4.77 (m, 2 H) 7.18 (dd, J=10.54, 8.53 Hz, 1 H) 7.37-7.42 (m, 1 H) 7.43-7.47 (m, 1 H) 7.48-7.54 (m, 2 H) 7.54-7.59 (m, 1 H) 7.62-7.66 (m, 1 H) 7.93-8.01 (m, 4 H) 8.30 (s, 1 H).

reactant | 4-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino) carbonyl]benzoic acid | 0.10 mmol, 0.0452 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=C(C(=O)O)C=C2)CC | C24H29N5O4
reactant | 1,1-dimethylethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazine carboxylate | 0.10 mmol, 0.0414 g | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C)F | C24H32FN3O2
reactant | HBTU | 0.15 mmol, 0.0569 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.20 mmol, 0.0281 mL | CCN(CC)CC | C6H15N
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(6-fluoro-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,4-benzenedicarboxamide | 0.0234 g, 31% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC=C(C=C2)C(=O)NCC=2C=C(C(=CC2)F)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)CC | C43H51FN8O3
